data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3443,3913,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)=[N+:13]([CH3:14])[C-:15]([CH3:16])[C:17]#[N:18]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:15]([CH3:16])([C:17]#[N:18])[N:13]([CH3:14])[C:6]1([CH3:5])[c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1,water,298.15,28.626999530564696,-30.319199463270927
3907,4471,[CH2:1]=[CH2:2].[CH3:3][N+:4](=[C:5]([C:6]#[N:7])[C:8]#[N:9])[C-:10]([c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH2:1]1[CH2:2][C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:4]([CH3:3])[C:5]1([C:6]#[N:7])[C:8]#[N:9],water,298.15,29.53339090063584,-15.80215528235624
658,718,[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:17]([C:18]#[N:19])([C:20](=[O:21])[O:22][CH3:23])[N:16]=[C:15]3[C:13]([O:12][CH3:11])=[O:14],water,298.15,11.159952213786667,-55.95305441578567
2964,3313,[CH3:6][CH-:7][NH+:8]=[CH:9][C:10]([CH3:11])=[O:12].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[CH:7]([CH3:6])[NH:8][CH:9]1[C:10]([CH3:11])=[O:12],water,298.15,45.341368266895934,22.014495787407625
163,180,[CH3:1][C:2](=[O:3])[C:4]#[C:5][C:6]([F:7])([F:8])[F:9].[CH:10]#[N+:11][C-:12]([C:13]#[N:14])[C:15](=[O:16])[NH:17][CH3:18]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]=[N:11][C:12]1([C:13]#[N:14])[C:15](=[O:16])[NH:17][CH3:18],water,298.15,9.594734081664877,-62.38032898128584
2807,3119,[CH3:19][NH:20][C:21](=[O:22])[CH-:23][N+:24]([CH3:25])=[C:26]([C:27]([CH3:28])=[O:29])[C:30](=[O:31])[O:32][CH3:33].[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]#[C:11][C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]2=[C:11]([C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:26]([C:27]([CH3:28])=[O:29])([C:30](=[O:31])[O:32][CH3:33])[N:24]([CH3:25])[CH:23]2[C:21]([NH:20][CH3:19])=[O:22],water,298.15,22.16366476399241,-34.853879967436576
3449,3927,[CH3:10][C:11](=[O:12])[N:13]=[N+:14]([CH3:15])[N-:16][C:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:16]([C:17]#[N:18])[N:14]([CH3:15])[N:13]1[C:11]([CH3:10])=[O:12],water,298.15,25.53778718924505,-10.898833050227037
2699,2999,[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([C:9]#[N:10])([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][NH:22][C:23](=[O:24])[C:25]([C:26](=[O:27])[O:28][CH3:29])=[N+:30]([CH3:31])[C-:32]([CH3:33])[C:34](=[O:35])[O:36][CH3:37]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([C:9]#[N:10])([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:25]([C:23]([NH:22][CH3:21])=[O:24])([C:26](=[O:27])[O:28][CH3:29])[N:30]([CH3:31])[C:32]2([CH3:33])[C:34](=[O:35])[O:36][CH3:37],water,298.15,26.15128142800105,-45.73645320022581
1200,1305,[CH3:14][CH:15]=[O+:16][C-:17]([C:18]([CH3:19])=[O:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[CH:6]=[C:7]2[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1>>[CH:1]12[CH:2]([CH:3]3[O:4][CH:5]1[CH:6]=[C:7]3[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[C:17]([C:18]([CH3:19])=[O:20])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[O:16][CH:15]2[CH3:14],water,298.15,17.9786176515642,-66.44172100748611
4121,4716,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[N-:13][N+:14]([CH3:15])=[C:16]([C:17]#[N:18])[C:19](=[O:20])[NH:21][CH3:22]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[N:13]([C:11]([NH:10][CH3:9])=[O:12])[N:14]([CH3:15])[C:16]2([C:17]#[N:18])[C:19](=[O:20])[NH:21][CH3:22],water,298.15,17.56283143528183,-12.338009471331477
3579,4085,[CH3:9][C:10](=[O:11])[C-:12]([CH3:13])[N+:14]([CH3:15])=[C:16]([CH3:17])[C:18]#[N:19].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:12]([C:10]([CH3:9])=[O:11])([CH3:13])[N:14]([CH3:15])[C:16]1([CH3:17])[C:18]#[N:19],water,298.15,24.071321929149107,-21.52739763668889
2388,2653,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([NH+:17]=[C:18]([C:19](=[O:20])[O:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[NH:17][C:18]2([C:19](=[O:20])[O:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,20.878147395055525,-17.608995649953222
